US08686152B2
To a solution of 4-(4-cyano-benzyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-cyclohexylmethyl ester (3.90 mmol; 1.72 g) in dichloromethane (12 mL) at 0° C. was added trifluoroacetic acid (12 mL) and the resulting mixture was stirred for 2 hours at room temperature. The resulting mixture was evaporated. The resulting residue was dissolved in ethyl acetate (50 mL) and washed with a saturated sodium bicarbonate solution (25 mL) and brine (25 mL). The organic phase was dried over magnesium sulfate, filtered, and evaporated to yield 4-(4-cyano-benzyl)-piperidine-4-carboxylic acid cyclohexylmethyl ester. 1H-NMR (CDCl3): 7.55 (1H, d), 7.20 (1H, d), 3.90 (2H, dd), 3.35 (2H, m), 2.70-3.10 (3H, m), 2.60 (1H, m), 2.25 (1H, m), 0.70-2.20 (15H, m).

reactant | 4-(4-cyano-benzyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-cyclohexylmethyl ester | 3.90 mmol, 1.72 g | C1CCC(CC1)COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C#N | C26H36N2O4
reactant | trifluoroacetic acid | 12 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 4-(4-cyano-benzyl)-piperidine-4-carboxylic acid cyclohexylmethyl ester | C1(CCCCC1)COC(=O)C1(CCNCC1)CC1=CC=C(C=C1)C#N | C21H28N2O2
